US06967197B2
To a mixture of tert-butyl 2-(7-(5-(4-(5-oxazolyl)phenyl)-2-thienyl)-1,1-dioxoperhydro-1,4-thiazepin-7-yl]acetate hydrochloride (4.2 g) and triethylamine (2.43 g) in a mixture of chloroform (24 ml) and N,N-dimethylformamide (12 ml) was added dropwise a solution of 9-fluorenylmethyl chloroformate (2.28 g) in chloroform (5 ml) under ice-cooling. After being stirred for 30 minutes, the mixture was concentrated in vacuo. The residue was dissolved in ethyl acetate and the solution was washed with water, a saturated aqueous sodium bicarbonate solution and brine, dried over magnesium sulfate, and evaporated in vacuo to give tert-butyl 2-[4-(9-fluorenylmethoxycarbonyl)-7-(5-(4-(5-oxazolyl)phenyl)-2-thienyl)-1,1-dioxoperhydro-1,4-thiazepin-7-yl]acetate (5.8 g) as an amorphous powder.

reactant | tert-butyl 2-(7-(5-(4-(5-oxazolyl)phenyl)-2-thienyl)-1,1-dioxoperhydro-1,4-thiazepin-7-yl]acetate hydrochloride | 4.2 g | Cl.O1C=NC=C1C1=CC=C(C=C1)C1=CC=C(S1)C1(CCNCCS1(=O)=O)CC(=O)OC(C)(C)C
reactant | triethylamine | 2.43 g | C(C)N(CC)CC | C6H15N
reactant | 9-fluorenylmethyl chloroformate | 2.28 g | ClC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C15H11ClO2
solvent | chloroform | 24 ml | C(Cl)(Cl)Cl | CHCl3
solvent | N,N-dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | tert-butyl 2-[4-(9-fluorenylmethoxycarbonyl)-7-(5-(4-(5-oxazolyl)phenyl)-2-thienyl)-1,1-dioxoperhydro-1,4-thiazepin-7-yl]acetate | 5.8 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N1CCS(C(CC1)(C=1SC(=CC1)C1=CC=C(C=C1)C1=CN=CO1)CC(=O)OC(C)(C)C)(=O)=O | C39H38N2O7S2
